US04743291
Step C: Synthesis of N-(2,3-dihydro-2,2-dimethylbenzofuran-7-yl)sulfonyl-2-bromopropionamide
A stirred slurry of 0.39 gram (0.0017 mole) of 7-aminosulfonyl-2,3-dihydro-2,2-dimethylbenzofuran and 1 ml of 2-bromopropionyl chloride was heated at 96° for 35 minutes, then at reflux for 30 minutes. The reaction mixture was cooled to ambient temperature and washed repeatedly with petroleum ether to remove excess acid chloride. The residue was 0.53 gram of N-(2,3-dihydro-2,2-dimethylbenzofuran-7-yl)sulfonyl-2-bromopropionamide; m.p. 224°-226° C.

reactant | 7-aminosulfonyl-2,3-dihydro-2,2-dimethylbenzofuran | 0.0017 mole, 0.39 gram | NS(=O)(=O)C1=CC=CC=2CC(OC21)(C)C | C10H13NO3S
reactant | 2-bromopropionyl chloride | 1 ml | BrC(C(=O)Cl)C | C3H4BrClO
product | N-(2,3-dihydro-2,2-dimethylbenzofuran-7-yl)sulfonyl-2-bromopropionamide | CC1(OC2=C(C1)C=CC=C2S(=O)(=O)NC(C(C)Br)=O)C | C13H16BrNO4S
